US06982348B2
To a solution of zinc chloride (21.54 g, 158 mmol) in ether (500 ml) was added sodium borohydride (11.96 g, 316 mmol), and the mixture was stirred at room temperature for 30 min. Precipitated sodium chloride was filtered off. To the filtrate was gradually added a solution of ethyl 2-((4-fluorophenyl)methyl)-3-oxo-3-(4-(trifluoromethyl)phenyl)propionate (28 g, 79 mmol) in ether (200 ml) under ice-cooling, and the mixture was stirred at room temperature for 30 min. The reaction solution was poured into 1N aqueous hydrochloric acid solution (500 ml), and extracted with ethyl acetate (500 ml×2). The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=4:1) to give ethyl(2RS,3RS)-2-((4-fluorophenyl)methyl)-3-hydroxy-3-(4-(trifluoromethyl)phenyl)propionate (28 g, 100%) as a colorless oil.

reactant | sodium borohydride | 316 mmol, 11.96 g | [BH4-].[Na+]
reactant | ethyl 2-((4-fluorophenyl)methyl)-3-oxo-3-(4-(trifluoromethyl)phenyl)propionate | 79 mmol, 28 g | FC1=CC=C(C=C1)CC(C(=O)OCC)C(C1=CC=C(C=C1)C(F)(F)F)=O | C19H16F4O3
reactant | hydrochloric acid | 1N, 500 ml | Cl | ClH
solvent | ether | 500 ml | CCOCC | C4H10O
solvent | ether | 200 ml | CCOCC | C4H10O
catalyst | zinc chloride | 158 mmol, 21.54 g | [Cl-].[Zn+2].[Cl-]
product | ethyl(2RS,3RS)-2-((4-fluorophenyl)methyl)-3-hydroxy-3-(4-(trifluoromethyl)phenyl)propionate | 28 g, 100% | FC1=CC=C(C=C1)CC(C(=O)OCC)C(C1=CC=C(C=C1)C(F)(F)F)O | C19H18F4O3
